US08039469B2
Preparation of 1-{4-[4-morpholin-4-yl-6-(3-oxa-8-azabicyclo[3.2.1]oct-8-yl)-1,3,5-triazin-2-yl]phenyl}-3-pyridin-4-ylurea
To a solution of 4-[4-morpholin-4-yl-6-(3-oxa-8-azabicyclo[3.2.1]oct-8-yl)-1,3,5-triazin-2-yl]aniline (22 mg, 0.06 mmol) in CHCl3 (1 mL) were added Et3N (25 mL, 0.18 mmol) and triphosgene (18 mg, 0.06 mmol). The mixture was stirred at room temperature for 15 min and 4-aminopyridine (17 mg, 0.18 mmol) was added. The mixture was stirred at room temperature overnight. The solvent was removed, and the residue was subjected to HPLC separation to give the title compound as off-white solid (1TFA salt, 8.8 mg, 24% yield). MS (ESI) m/z 489.2.

reactant | 4-[4-morpholin-4-yl-6-(3-oxa-8-azabicyclo[3.2.1]oct-8-yl)-1,3,5-triazin-2-yl]aniline | 0.06 mmol, 22 mg | N1(CCOCC1)C1=NC(=NC(=N1)N1C2COCC1CC2)C2=CC=C(N)C=C2 | C19H24N6O2
reactant | Et3N | 0.18 mmol, 25 mL | CCN(CC)CC | C6H15N
reactant | triphosgene | 0.06 mmol, 18 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-aminopyridine | 0.18 mmol, 17 mg | NC1=CC=NC=C1 | C5H6N2
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-{4-[4-morpholin-4-yl-6-(3-oxa-8-azabicyclo[3.2.1]oct-8-yl)-1,3,5-triazin-2-yl]phenyl}-3-pyridin-4-ylurea | 8.8 mg, 24% yield | N1(CCOCC1)C1=NC(=NC(=N1)N1C2COCC1CC2)C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2 | C25H28N8O3
